US07125881B2
(i) 5-Methoxy-2-thioxodihydropyrimidine-4,6(1H,5H)-dione
Thiourea (24 g) and methoxymethyl malonate (34 g) was added to a solution of sodium (12 g) in methanol and the mixture heated under reflux for 10 h. The methanol was evaporated under reduced pressure, water (500 ml) added and extracted with ether. The aqueous layer was acidified to pH1 with conc. hydrochloric acid, evaporated to ˜200 ml and the precipitate filtered and dried. Yield 23 g

reactant | Thiourea | 24 g | NC(=S)N | CH4N2S
reactant | methoxymethyl malonate | 34 g | C(CC(=O)[O-])(=O)OCOC
reactant | sodium | 12 g | [Na] | Na
reactant | methanol | CO | CH4O
product | 5-Methoxy-2-thioxodihydropyrimidine-4,6(1H,5H)-dione | COC1C(NC(NC1=O)=S)=O | C5H6N2O3S
